US06930185B2
4′-Chloro-N-[2-[(N,N-dimethylamino)methyl]-6-quinolinyl][1,1′-biphenyl]-4-carboxamide
The N-[2-[(N,N-dimethylamino)methyl]-6-quinolinyl]acetamide (1.9 mg, 0.296 mmol) obtained in the above 1) was dissolved in concentrated hydrochloric acid (1.5 ml), and the solution was stirred at 110° C. for 2 hours. The solvent was distilled off under reduced pressure, an aqueous potassium carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue, 4′-chlorobiphenylcarboxylic acid (68.8 mg, 0.296 mmol) and dimethylaminopyridine (36.1 mg, 0.296 mmol) were dissolved in N,N-dimethylformamide (1.5 ml), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (56.6 mg, 0.296 mmol) was added under ice-cooling, and the mixture was stirred at room temperature for 16 hours. To the reaction solution was added an aqueous potassium carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by alumina column chromatography (developing solvent: ethyl acetate), and crystallized from ethyl acetate-diisopropyl ether (1:5) to obtain the titled compound (60.6 mg) as a white powder.

reactant | N-[2-[(N,N-dimethylamino)methyl]-6-quinolinyl]acetamide | 0.296 mmol, 1.9 mg | CN(C)CC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C14H17N3O
reactant | 4′-chlorobiphenylcarboxylic acid | 0.296 mmol, 68.8 mg | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C13H9ClO2
reactant | dimethylaminopyridine | 0.296 mmol, 36.1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.296 mmol, 56.6 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 4′-Chloro-N-[2-[(N,N-dimethylamino)methyl]-6-quinolinyl][1,1′-biphenyl]-4-carboxamide | 60.6 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC=1C=C2C=CC(=NC2=CC1)CN(C)C | C25H22ClN3O
